US04275057
A solution of 4.00 g (21 mmol) of 3-ketohexanedioic acid dimethyl ester [B. J. Whitlock and H. W. Whitlock, J. Org. Chem., 39:3144 (1974)] in 100 mL of benzene was refluxed in the presence of 14.5 g (230 mmol) of ethylene glycol and 100 mg of p-toluene-sulfonic acid while water was azeotropically removed in a Dean-Stark trap. After 2.5 h, the mixture was cooled and washed with equal volumes of saturated sodium bicarbonate solution and water. The benzene layer was dried (MgSO4) and reduced to dryness to leave a clear oil; IR (neat) 1740 cm-1, NMR (CDCl3) δ2.30 (A2B2 multiplet, 4), 2.60 (s,2), 3.65 (s,6), and 3.95 (s,4). The oily ketal was immediately hydrolyzed under reflux for 1.5 h in a solution of 4.4 g of 86% KOH in 50 mL of 95% ethanol. After cooling, the slight precipitate formed was dissolved by adding a small amount of water. Sufficient cation exchange resin AG50W-X8 (H+) was added to neutralize the base (pH~6.5) and removal of the resin afforded a filtrate which was reduced to dryness to leave 4.3 g (99%) of 3-ketohexanedioic acid ethylene ketal as a yellowish oil which yielded a very hygroscopic solid after trituration with acetone; IR 1720 cm-1 (broad); NMR δ(D2O) 2.20 (A2B2 multiplet, 4), 2.60 (s,2), and 4.0 (s,4). This compound was not further characterized and used as such in the following step.

reactant | 3-ketohexanedioic acid dimethyl ester | 21 mmol, 4.00 g | COC(CC(CCC(=O)OC)=O)=O | C8H12O5
reactant | ethylene glycol | 230 mmol, 14.5 g | C(CO)O | C2H6O2
reactant | water | O | H2O
reactant | KOH | 4.4 g | [OH-].[K+]
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | p-toluene-sulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-ketohexanedioic acid ethylene ketal | 4.3 g, 99% | C1COC(CC(CCC(=O)O)=O)(O)O1 | C8H12O6
